2143-08-16 09:02:00 Physician Attending Progress Note
Chief Complaint: hypertensive urgency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2143-8-16**] 01:30 AM
   right SC quinton cath placed [**11-17**]
 ARTERIAL LINE - START [**2143-8-16**] 03:30 AM
   Admitted to MICU
   Ongoing challenges with blood pressure control -- cuff [**Location (un) 308**] lower
   than arterial line
   Headache
   Allergies:
   Ciprofloxacin
   Rash;
   Hydralazine
   Lightheadedness
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2143-8-16**] 05:40 AM
   Other medications:
   NTG @ 4, hydral, lisinopril 40 [**Hospital1 **], SQH, omeprazole, valsaran,
   labetalol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Neurologic: No(t) Numbness / tingling, Headache
   Signs or concerns for abuse : No
   Pain: [**2-12**] Mild
   Pain location: headache
   Flowsheet Data as of  [**2143-8-16**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 66 (49 - 88) bpm
   BP: 219/102(136) {201/91(104) - 237/109(330)} mmHg
   RR: 16 (12 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 70 Inch
             Total In:
             2,331 mL
   PO:
             510 mL
   TF:
   IVF:
   321 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     30 mL
   Urine:
   NG:
   30 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,301 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S4, systolic murmur
   louder with isorhythmics and quieter with early-stage valsalva
   Peripheral Vascular: (Right radial pulse: obscured by lines), (Left
   radial pulse: obscured by lines), (Right DP pulse: Present), (Left DP
   pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : )
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal, CN II - XII functionally
   intact
   Labs / Radiology
   10.3 g/dL
   190 K/uL
   93 mg/dL
   11.3 mg/dL
   23 mEq/L
   5.4 mEq/L
   43 mg/dL
   102 mEq/L
   142 mEq/L
   33.7 %
   4.8 K/uL
        [image002.jpg]
                             [**2143-8-16**]  01:10 AM
                             [**2143-8-16**]  06:44 AM
   WBC
   5.1
   4.8
   Hct
   33.8
   33.7
   Plt
   179
   190
   Cr
   10.3
   11.3
   Glucose
   138
   93
   Other labs: PT / PTT / INR:15.7/40.4/1.4, CK / CKMB / Troponin-T:24//,
   Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:7.7 mg/dL
   Imaging: no ICH or changes on CT head
   Assessment and Plan
   44-year-old man with hypertensive urgency.  His prior history of
   subarachnoid hemorrhage and PRES is concerning, though his CT and
   improved symptoms are both reassuring.
          Maintain and titrate nitroglycerin for now
          Avoid nitroprusside given renal failure
          Resume all of his home medications
          Treat headache since this may help with BP as well
          Urgent dialysis per renal
          If not improved in the next few hours, or if symptoms
   escalate, will add additional IV [**Doctor Last Name **] such as enalaprilat or
   nicardipine
   Will need further workup of etiology of hypertension.
   Murmur
   His murmur and arterial line tracing both suggest hypertrophic
   obstructive cardiomyopathy, although echo at the beginning of this year
   did not show it.  Repeat echo.
   Anemia
   Is mild.  Follow for now.
   ICU Care
   Nutrition: PO diet
   Dialysis Catheter - [**2143-8-16**] 01:30 AM
   20 Gauge - [**2143-8-16**] 01:31 AM
   Arterial Line - [**2143-8-16**] 03:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2143-08-17 05:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Had HD (-3.5L) in AM with some improvement in blood pressures.
   Restarted home blood pressure meds
   Off nitro briefly, but now maxed out @ 4.0
   Ambien given for insomnia
   Allergies:
   Ciprofloxacin
   Rash;
   Hydralazine
   Lightheadedness
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 4 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2143-8-16**] 05:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-17**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 63 (54 - 95) bpm
   BP: 194/79(111) {137/61(82) - 236/114(158)} mmHg
   RR: 17 (13 - 52) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.7 kg (admission): 83.7 kg
   Height: 70 Inch
             Total In:
                                                                  2,936 mL
                                                                    311 mL
   PO:
                                                                    615 mL
             TF:
   IVF:
                                                                    821 mL
                                                                    311 mL
   Blood products:
   Total out:
                                                                  3,530 mL
                                                                      0 mL
   Urine:
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                   -594 mL
                                                                    312 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   201 K/uL
   11.0 g/dL
   103 mg/dL
   8.0 mg/dL
   29 mEq/L
   4.3 mEq/L
   23 mg/dL
   100 mEq/L
   140 mEq/L
   34.9 %
   4.6 K/uL
        [image002.jpg]
                             [**2143-8-16**]  01:10 AM
                             [**2143-8-16**]  06:44 AM
                             [**2143-8-17**]  03:38 AM
   WBC
   5.1
   4.8
   4.6
   Hct
   33.8
   33.7
   34.9
   Plt
   179
   190
   201
   Cr
   10.3
   11.3
   8.0
   TropT
   0.03
   Glucose
   138
   93
   103
   Other labs: PT / PTT / INR:15.7/40.4/1.4, CK / CKMB /
   Troponin-T:24//0.03, Ca++:9.2 mg/dL, Mg++:1.7 mg/dL, PO4:6.3 mg/dL
   Serum cortisol.  M/n elevated as well
   Metanephrons
   Radiology:
   Head CT read
   Echo...Concentric LDH, nl
   Assessment and Plan
   44 y/o M with h/o malignant hypertension & ESRD on HD (s/p recent
   removal of transplanted kidney) admitted with hypertensive urgency with
   headache.
   .
   #. Hypertensive urgency: Patient's blood pressure at [**Company 319**] in the
   180s-190s systolic but up to 240s/130s in the ED. Received labetalol
   with good effect but HR down to 50s. Would hold off on further beta
   blockade due to bradycardia until HR recovers. Though nitroglycerin not
   an ideal choice for IV BP control, cannot safely use beta blocker due
   to HR and not a good candidate for nitroprusside due to renal failure.
   Arterial line placed on arrival to the MICU registering blood pressures
   50 points higher systolic than noninvasive monitoring so therefore
   clearly needs more IV BP control.
   - goal BP 160-190/80-100, lower BP might put patient at risk of
   decreased cerebral perfusion at this point since BP elevated to 240s on
   arrival to the ED
   - Arterial line placed for more invasive HD monitoring
   - attempt PO meds --> hydralazine, lisinopril, & diovan per home
   regimen.
   - up titrate nitroglycerin to obtain goal BP
   - if nitroglycerin unable to obtain BP within goal, consider IV
   enalaprilat (ACEi) though this is not an ideal choice as response is
   not predictable
   - consider early (1st morning) dialysis to assist in blood pressure
   control
   .
   #. Headache: Likely related to blood pressure but could be the case
   that headaches are setting off hypertensive episodes.
   - f/u final head CT read
   - morphine for pain while nauseated, when taking POs switch to PO
   regimen (oxycodone in past)
   - compazine prn for nausea
   - can add tylenol when taking POs
   .
   #. ESRD on HD: Will be due for dialysis on Friday, [**8-16**]. Contact Renal
   to let them know patient admitted and will need dialysis.
   - sevelamer & renal vitamin when taking POs
   - lyte management per renal
   .
   #. FEN - Sips for now, trying to take PO meds. Lyte management per
   renal.
   .
   #. PPx - hep sc tid, PPI per home regimen, bowel meds prn
   .
   # Access: 2 PIVs
   .
   #. Code - Full, confirmed with patient.
   .
   # Communication: With patient and wife, [**Name (NI) 1828**].
   .
   #. Dispo - MICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2143-8-16**] 01:04 AM
   Dialysis Catheter - [**2143-8-16**] 01:30 AM
   20 Gauge - [**2143-8-16**] 01:31 AM
   Arterial Line - [**2143-8-16**] 03:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-08-17 09:40:00 Physician Attending Progress Note
Chief Complaint: malignant HTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Nitro drip on, then off, BP dropped with po Nicardipine
   HD yesterday for 3.5 L
   Allergies:
   Ciprofloxacin
   Rash;
   Hydralazine
   Lightheadedness
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-17**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 97 (57 - 97) bpm
   BP: 131/65(83) {128/62(80) - 206/119(130)} mmHg
   RR: 15 (13 - 52) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.7 kg (admission): 83.7 kg
   Height: 70 Inch
             Total In:
                                                                  2,936 mL
                                                                    392 mL
   PO:
                                                                    615 mL
             TF:
   IVF:
                                                                    821 mL
                                                                    392 mL
   Blood products:
   Total out:
                                                                  3,530 mL
                                                                      0 mL
   Urine:
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                   -594 mL
                                                                    392 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   201 K/uL
   103 mg/dL
   8.0 mg/dL
   29 mEq/L
   4.3 mEq/L
   23 mg/dL
   100 mEq/L
   140 mEq/L
   34.9 %
   4.6 K/uL
        [image002.jpg]
                             [**2143-8-16**]  01:10 AM
                             [**2143-8-16**]  06:44 AM
                             [**2143-8-17**]  03:38 AM
   WBC
   5.1
   4.8
   4.6
   Hct
   33.8
   33.7
   34.9
   Plt
   179
   190
   201
   Cr
   10.3
   11.3
   8.0
   TropT
   0.03
   Glucose
   138
   93
   103
   Other labs: PT / PTT / INR:15.7/40.4/1.4, CK / CKMB /
   Troponin-T:24//0.03, Ca++:9.2 mg/dL, Mg++:1.7 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
   44 y/o M with h/o malignant hypertension & ESRD on HD (s/p recent
   removal of transplanted kidney) admitted with hypertensive urgency with
   headache.
   #. Hypertensive urgency: under comtrol this AM after HD. Had a dramtic
   drop with po CCB.
   - Arterial line placed for more invasive HD monitoring
   - attempt PO meds --> hydralazine, lisinopril, & diovan per home
   regimen.
   #. Headache: Likely related to blood pressure but could be the case
   that headaches are setting off hypertensive episodes.
   - final head CT negative
   - morphine or oxycodone for pain for pain while nauseated, compazine
   prn for nausea
   #. ESRD on HD: Consult team following s/p HD yesterday
   - sevelamer & renal vitamin when taking POs
   - lyte management per renal
   #. FEN - Sips for now, trying to take PO meds. Lyte management per
   renal.
   #. PPx - hep sc tid, PPI per home regimen, bowel meds prn
   # Access: 2 PIVs
   #. Code - Full, confirmed with patient.
   # Communication: With patient and wife, [**Name (NI) 1828**].
   #. Dispo - MICU for now
   ICU Care
   Nutrition: Renal diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2143-8-16**] 01:04 AM
   Dialysis Catheter - [**2143-8-16**] 01:30 AM
   20 Gauge - [**2143-8-16**] 01:31 AM
   Arterial Line - [**2143-8-16**] 03:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2143-08-18 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 A-line d/c
   -difficult BP control with pressures up to 170s/100s overnight
   -added minoxidil 2.5 [**Hospital1 **] as per renal
   Allergies:
   Ciprofloxacin
   Rash;
   Hydralazine
   Lightheadedness
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-18**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.7
   HR: 55 (55 - 97) bpm
   BP: 182/99(120) {117/65(79) - 182/101(120)} mmHg
   RR: 13 (13 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 83.7 kg (admission): 83.7 kg
   Height: 70 Inch
                  Total In:
                                                                    983 mL
                                                                     60 mL
   PO:
                                                                    580 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    403 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    983 mL
                                                                     60 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG:
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   183 K/uL
   12.2 g/dL
   90 mg/dL
   10.1 mg/dL
   27 mEq/L
   5.0 mEq/L
   34 mg/dL
   99 mEq/L
   139 mEq/L
   38.6 %
   3.3 K/uL
        [image002.jpg]
                             [**2143-8-16**]  01:10 AM
                             [**2143-8-16**]  06:44 AM
                             [**2143-8-17**]  03:38 AM
                             [**2143-8-18**]  04:06 AM
   WBC
   5.1
   4.8
   4.6
   3.3
   Hct
   33.8
   33.7
   34.9
   38.6
   Plt
   179
   190
   201
   183
   Cr
   10.3
   11.3
   8.0
   10.1
   TropT
   0.03
   Glucose
   138
   93
   103
   90
   Other labs: PT / PTT / INR:14.5/39.6/1.3, CK / CKMB /
   Troponin-T:24//0.03, Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:7.8 mg/dL
   Assessment and Plan
   44 y/o M with h/o malignant hypertension & ESRD on HD (s/p recent
   removal of transplanted kidney) admitted with hypertensive urgency with
   headache.
   .
   #. Hypertensive urgency: Blood pressures came down some with HD,
   restarting home meds, and responded dramatically to AM nicardipine SR.
   Now under goal of 150-190.  Will add back antihypertensives as needed
   for blood pressure control.  Discussed with renal, volume overload does
   not appear responsible.
   - Follow Renal recs
   - Would keep clonidine.  Add back [**Last Name (un) 239**] and BB next.
   - Arterial line placed for more invasive HD monitoring.  Will continue
   while in ICU
   - nitroglycerin gtt if necessary for goal BP
   - consider dialysis if needed to assist in blood pressure control
   .
   #. Headache: Likely related to blood pressure but could be the case
   that headaches are setting off hypertensive episodes.   Final head CT
   neg for bleed.
   - Tylenol for pain.  Can add morphine if needed.
   - compazine prn for nausea
   .
   #. ESRD on HD: Will be due for dialysis on Friday, [**8-16**].
   - Restart sevelamer & renal vitamin
   - lyte management per renal
   .
   #. FEN
 Hemodialysis diet. Lyte management per renal.
   .
   #. PPx - hep sc tid, PPI per home regimen, bowel meds prn
   .
   # Access: 2 PIVs
   .
   #. Code - Full, confirmed with patient.
   .
   # Communication: With patient and wife, [**Name (NI) 1828**].
   .
   #. Dispo
 To floor if stable today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2143-8-16**] 01:04 AM
   Dialysis Catheter - [**2143-8-16**] 01:30 AM
   20 Gauge - [**2143-8-16**] 01:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code

2143-08-18 10:12:00 Physician Attending Progress Note
Chief Complaint: malignant HTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2143-8-17**] 06:09 PM
   Persistent HTN
   Added minoxidil
   Allergies:
   Ciprofloxacin
   Rash;
   Hydralazine
   Lightheadedness
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-18**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.8
C (96.4
   HR: 71 (52 - 86) bpm
   BP: 191/109(129) {117/67(79) - 191/109(129)} mmHg
   RR: 22 (12 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.7 kg (admission): 83.7 kg
   Height: 70 Inch
                  Total In:
                                                                    983 mL
                                                                     60 mL
   PO:
                                                                    580 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    403 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    983 mL
                                                                     60 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abd: soft Nt + BS
   Skin:  warm
   Neurologic: nonfocal
   Labs / Radiology
   12.2 g/dL
   183 K/uL
   90 mg/dL
   10.1 mg/dL
   27 mEq/L
   5.0 mEq/L
   34 mg/dL
   99 mEq/L
   139 mEq/L
   38.6 %
   3.3 K/uL
        [image002.jpg]
                             [**2143-8-16**]  01:10 AM
                             [**2143-8-16**]  06:44 AM
                             [**2143-8-17**]  03:38 AM
                             [**2143-8-18**]  04:06 AM
   WBC
   5.1
   4.8
   4.6
   3.3
   Hct
   33.8
   33.7
   34.9
   38.6
   Plt
   179
   190
   201
   183
   Cr
   10.3
   11.3
   8.0
   10.1
   TropT
   0.03
   Glucose
   138
   93
   103
   90
   Other labs: PT / PTT / INR:14.5/39.6/1.3, CK / CKMB /
   Troponin-T:24//0.03, Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:7.8 mg/dL
   Assessment and Plan
   44 y/o M with h/o malignant hypertension & ESRD on HD (s/p recent
   removal of transplanted kidney) admitted with hypertensive urgency with
   headache.
   #. Hypertensive urgency: under control this AM after HD. Had a dramatic
   drop with po CCB but now in appropriate range.
   - attempt PO meds --> lisinopril, & diovan per home regimen separted
   over time to maintain goal 140/80.
   #. ESRD on HD: Consult team following s/p HD yesterday
   - sevelamer & renal vitamin when taking POs
   - lyte management per renal
   #. FEN - Sips for now, trying to take PO meds.
   #. PPx - hep sc tid, PPI per home regimen, bowel meds prn
   # Access: 2 PIVs
   ICU Care
   Nutrition: renal diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2143-8-16**] 01:04 AM
   Dialysis Catheter - [**2143-8-16**] 01:30 AM
   20 Gauge - [**2143-8-16**] 01:31 AM
   Prophylaxis:
   DVT: ambulating
   Stress ulcer: eating
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition : call out